US06432964B1
a) Ethyl 2-Amino-3-thenoate
Piperidine (20.7 ml) was added dropwise with stirring to a mixture of 2,5-dihydroxy-1,4-dithiane (17.5 g) and ethyl cyanoacetate (23.7 g). The mixture was stirred at room temperature for 4 hours and then allowed to stand overnight. It was filtered and the filtrate evaporated to dryness. The residue was dissolved in ether, filtered and evaporated to dryness. The residue was triturated with light petroleum (b.p. 60-80° C.) containing a small amount of ethyl acetate. The gummy solid obtained was purified by silica gel column chromatography and the semi-solid product was triturated with water, filtered and washed with light petroleum (b.p. 60-80° C.) and dried to give the title product.

reactant | Piperidine | 20.7 ml | N1CCCCC1 | C5H11N
reactant | 2,5-dihydroxy-1,4-dithiane | 17.5 g | OC1SCC(SC1)O | C4H8O2S2
reactant | ethyl cyanoacetate | 23.7 g | C(#N)CC(=O)OCC | C5H7NO2
product | Ethyl 2-Amino-3-thenoate | NC1=C(C=CS1)C(=O)OCC | C7H9NO2S
